US06054470
To a stirred solution of 4-methyl-3-nitro-2-pyridone (0.45 g, 2.9 mmol) in glacial acetic acid (3 mL) was added sodium acetate (0.24 g) followed by bromine (0.15 mL) dropwise. After 5.5 hours, the mixture was diluted with ethyl acetate, washed with water, dried, filtered and concentrated to give 5-bromo-4-methyl-3-nitro-2-pyridone (0.62 g, 2.6 mmol, 90%).

reactant | 4-methyl-3-nitro-2-pyridone | 2.9 mmol, 0.45 g | CC1=C(C(NC=C1)=O)[N+](=O)[O-] | C6H6N2O3
reactant | sodium acetate | 0.24 g | C(C)(=O)[O-].[Na+]
reactant | bromine | 0.15 mL | BrBr | Br2
solvent | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-bromo-4-methyl-3-nitro-2-pyridone | 2.6 mmol, 0.62 g, 90% | BrC=1C(=C(C(NC1)=O)[N+](=O)[O-])C | C6H5BrN2O3
